US09290517B2
Step B: Ethyl 2-[(3R,3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate
A mixture of ethyl 2-[(3R,3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate (34 mg, 0.052 mmol) in TFA (0.5 mL) and DCM (0.5 mL) was stirred at room temperature. After 1 hour, the reaction mixture was evaporated to an oil, dissolved in EtOH (1 mL) and purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-100% acetonitrile/water+0.05% TFA gradient followed by a 100% acetonitrile/water+0.05% TFA flush. The desired fractions were lyophilized to give the title compound as a solid. LC-MS: calculated for C28H26ClN3O5 519.16 observed m/e: 520.22 (M+H)+ (Rt 0.74/2 min); 1H NMR δ (ppm) (CD3OD): 7.87 (s, 1H), 7.75 (ABq, 4H), 7.71 (d, 2H), 7.48 (dd, 2H), 7.38 (dd, 1H), 5.57 (qt, 1H), 5.01 (t, 1H), 4.60 (t, 1H), 4.16 (q, 2H), 4.10 (dd, 1H), 4.00-4.06 (m, 2H), 3.53 (dd, 1H), 2.71 (dd, 1H), 2.59 (m, 1H), 2.51 (dd, 1H) and 1.27 (t, 3H).

reactant | ethyl 2-[(3R,3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate | 0.052 mmol, 34 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1CC(=O)OCC | C34H40ClN3O6Si
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-[(3R,3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1CC(=O)OCC | C28H26ClN3O5
